* d:\Disco D\universita\magistrale\progettazione-low-power\progetti\progetto-1\ltspice\models\minimum-inverter\get_sizing\minimum_inverter_sizing_analysis.asc
M1 OUT IN 0 N001 EECMOSN l=l_min_nmos w=w_min_nmos
Cload OUT 0 5f
Vsupply supply 0 1
Vin IN 0 PULSE(0 1 5n 10p 10p 5n 10n)
M2 supply IN OUT supply EECMOSP l=l_min_pmos w={w_min_pmos_analysis}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\giorg\AppData\Local\LTspice\lib\cmp\standard.mos
.backanno
.end
